US07572809B2
Similar procedure as described in example 2a was used, starting from 5-Benzyloxy-6-methoxy-indan-1-one and n-butylnitrite to give 5-Benzyloxy-6-methoxy-indan-1,2-dione 2-oxime. LC-MS: m/e 298 (MH+).

reactant | 5-Benzyloxy-6-methoxy-indan-1-one | C(C1=CC=CC=C1)OC=1C=C2CCC(C2=CC1OC)=O | C17H16O3
reactant | n-butylnitrite | C(CCC)ON=O | C4H9NO2
product | 5-Benzyloxy-6-methoxy-indan-1,2-dione 2-oxime | C(C1=CC=CC=C1)OC=1C=C2CC(C(C2=CC1OC)=O)=NO | C17H15NO4
